US07196104B2
Preparation EW: 6-(1-Piperidin-1-yl-ethyl)-pyridin-2-ylamine
In a manner similar to that described in Preparation BW, 2-bromo-6-(1-piperidin-1-yl-ethyl)-pyridine (370 mg, 1.37 mmol) was heated with NH4OH (18 mL), IpOH (10 mL), and Cu (30 mg) in sealed tube to give a brown oil. MS m/z: 206.1 (M+H). Calc'd. for C12H19N3-205.16.

reactant | 2-bromo-6-(1-piperidin-1-yl-ethyl)-pyridine | 1.37 mmol, 370 mg | BrC1=NC(=CC=C1)C(C)N1CCCCC1 | C12H17BrN2
reactant | NH4OH | 18 mL | [NH4+].[OH-]
product | 6-(1-Piperidin-1-yl-ethyl)-pyridin-2-ylamine | N1(CCCCC1)C(C)C1=CC=CC(=N1)N | C12H19N3
